US07105679B2
STEP B: 1-(2-{4-[2,8-bis-(tert-butyl-dimethyl-silyloxy)-5-methyl-5,11-dihydro-chromeno[4,3-c]chromen-5-yl]-phenoxy}-ethyl)-azepane
2-[4-{1-[4-(2-azepan-1-yl-ethoxy)-phenyl]-1-hydroxy-ethyl}-7-(tert-butyl-dimehyl-silyloxy)-2H-chromen-3-yl]-5-(tert-butyl-dimethyl-silyloxy)-phenol, prepared as in STEP A above, was dissolved in toluene (8 mL) and treated with diluted HCl (0.4 mL of concentrated HCl:H2O=1:2 v/v). The reaction mixture was vigorously stirred at room temperature for 1.5 h, then diluted with water and ethyl acetate. The resulting layers were separated and organic layer washed successively with saturated NaHCO3, brine and dried over MgSO4. The desiccant was filtered off, and the filtrate concentrated. Flash chromatography with ethyl acetate:hexane:CH3OH (containing 1% NH4OH)=49:49:2 as the eluent yielded the title compound as a light yellow oil.

reactant | 2-[4-{1-[4-(2-azepan-1-yl-ethoxy)-phenyl]-1-hydroxy-ethyl}-7-(tert-butyl-dimehyl-silyloxy)-2H-chromen-3-yl]-5-(tert-butyl-dimethyl-silyloxy)-phenol | N1(CCCCCC1)CCOC1=CC=C(C=C1)C(C)(O)C1=C(COC2=CC(=CC=C12)O[Si](C)(C)C(C)(C)C)C1=C(C=C(C=C1)O[Si](C)(C)C(C)(C)C)O | C43H63NO6Si2
reactant | HCl | 0.4 mL | Cl | ClH
solvent | toluene | 8 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(2-{4-[2,8-bis-(tert-butyl-dimethyl-silyloxy)-5-methyl-5,11-dihydro-chromeno[4,3-c]chromen-5-yl]-phenoxy}-ethyl)-azepane | C(C)(C)(C)[Si](OC=1C=CC=2C3=C(COC2C1)C=1C=CC(=CC1OC3(C)C3=CC=C(OCCN1CCCCCC1)C=C3)O[Si](C)(C)C(C)(C)C)(C)C | C43H61NO5Si2
